** sch_path: /home/anton/projects/ttgf-algofoogle-analog/xschem/tb_csringosc.sch
**.subckt tb_csringosc
x1 VCC GND vbiasp VIN osc vbiasn csringosc
V1 VCC GND 3.3
V2 VIN GND PWL(0us 0.0v 0.1us 0.0v 2us 0.55v 10us 0.55v 15us 0.65v 50us 3.3v 51us 3.3v)
**** begin user architecture code

.include /home/anton/ttsetup@ttgf26a/pdk/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /home/anton/ttsetup@ttgf26a/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /home/anton/ttsetup@ttgf26a/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
* .lib /home/anton/ttsetup@ttgf26a/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical


.control
save i(vcc) i(vin) vin vbiasp vbiasn osc
tran 3p 51us
write tb_csringosc.raw
.endc

**** end user architecture code
**.ends

* expanding   symbol:  csringosc.sym # of pins=6
** sym_path: /home/anton/projects/ttgf-algofoogle-analog/xschem/csringosc.sym
** sch_path: /home/anton/projects/ttgf-algofoogle-analog/xschem/csringosc.sch
.subckt csringosc VCC VSS vbiasp vin osc_out vbiasn
*.opin osc_out
*.ipin vin
*.iopin VCC
*.iopin VSS
*.opin vbiasp
*.opin vbiasn
x1 VCC VSS vbiasp osc_out net1 vbiasn csrostage
x2 VCC VSS vbiasp net1 net2 vbiasn csrostage
x3 VCC VSS vbiasp net2 net3 vbiasn csrostage
x4 VCC VSS vbiasp net3 net4 vbiasn csrostage
x5 VCC VSS vbiasp net4 net5 vbiasn csrostage
x6 VCC VSS vbiasp net5 net6 vbiasn csrostage
x7 VCC VSS vbiasp net6 net7 vbiasn csrostage
x8 VCC VSS vbiasp net7 net8 vbiasn csrostage
x9 VCC VSS vbiasp net8 osc_out vbiasn csrostage
XM1 vbiasn vbiasn VSS VSS nfet_03v3 L=0.50u W=0.25u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 vbiasn vbiasp VCC VCC pfet_03v3 L=0.50u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 vbiasp vbiasp VCC VCC pfet_03v3 L=0.50u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 vbiasp vin net9 VSS nfet_03v3 L=0.50u W=2.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XR1 VSS net9 VSS ppolyf_u_3k r_width=1e-6 r_length=1e-6
.ends


* expanding   symbol:  csrostage.sym # of pins=6
** sym_path: /home/anton/projects/ttgf-algofoogle-analog/xschem/csrostage.sym
** sch_path: /home/anton/projects/ttgf-algofoogle-analog/xschem/csrostage.sch
.subckt csrostage VCC VSS VbiasP A Y VbiasN
*.iopin VCC
*.iopin VSS
*.ipin A
*.opin Y
*.ipin VbiasP
*.ipin VbiasN
XM1 Y A net1 VSS nfet_03v3 L=0.50u W=0.25u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Y A net2 VCC pfet_03v3 L=0.50u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 net2 VbiasP VCC VCC pfet_03v3 L=0.50u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net1 VbiasN VSS VSS nfet_03v3 L=0.50u W=0.25u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
